US06423688B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-glutamine
N-(Toluene-4-sulfonyl)-L-proline hydrate was coupled to L-glutamine tert-butyl ester hydrochloride using the procedure described in Method 3. The title compound, prepared via cleavage of the tert-butyl ester using trifluoroacetic acid in CH2Cl2, was recovered as a solid, mp=45-55° C.

reactant | N-(Toluene-4-sulfonyl)-L-proline hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C
reactant | L-glutamine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](N)CCC(N)=O)=O
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-glutamine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)O)CCC1)C | C17H23N3O6S
